US07402581B2
3-Cyano-N-[(2S)-2-(3,4-dichlorophenyl)-4-(3-hydroxyazetidin-1-yl)butyl]-N-methyl-1-naphthamide (0.20 g, 0.41 mmol) was dissolved in CH2Cl2 and to the resultant solution was added triethylamine (0.17 mL, 0.41 mmol). The mixture was cooled to 0° C. before careful addition of methanesulfonyl chloride (0.03 mL, 0.41 mmol). The mixture was stirred with cooling for 30 min and then at room temperature for 1 h. The reaction mixture was diluted with CH2Cl2 and then washed with hydrochloric acid (1M), saturated NaHCO3 and then with brine. The organic solution was dried over MgSO4 and the solvent removed by evaporation. There was obtained 0.21 g (92%) of 1-[(3S)-4-[(3-cyano-1-naphthoyl)(methyl)amino]-3-(3,4-dichlorophenyl)butyl]azetidin-3-yl methanesulfonate as a solid. LCMS: m/z 560 (M+)+.

reactant | 3-Cyano-N-[(2S)-2-(3,4-dichlorophenyl)-4-(3-hydroxyazetidin-1-yl)butyl]-N-methyl-1-naphthamide | 0.41 mmol, 0.20 g | C(#N)C=1C=C(C2=CC=CC=C2C1)C(=O)N(C)C[C@@H](CCN1CC(C1)O)C1=CC(=C(C=C1)Cl)Cl | C26H25Cl2N3O2
reactant | triethylamine | 0.41 mmol, 0.17 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.41 mmol, 0.03 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-[(3S)-4-[(3-cyano-1-naphthoyl)(methyl)amino]-3-(3,4-dichlorophenyl)butyl]azetidin-3-yl methanesulfonate | 0.21 g, 92% | CS(=O)(=O)OC1CN(C1)CC[C@H](CN(C)C(=O)C1=CC(=CC2=CC=CC=C12)C#N)C1=CC(=C(C=C1)Cl)Cl | C27H27Cl2N3O4S
